US05025025
Hydrolysis of ethyl 7-(p-chlorophenylsulfonamido)-3[3-(3-pyridyl)propyl]heptanoate in 3 mL methanol with 5.2 mL (5.2 mmol) of 1N sodium hydroxide according to procedure described in the previous examples yields 7-(p-chlorophenylsulfonamido)-3-[3-(3-pyridyl)propyl]heptanoic acid, m.p. 95-97°.

reactant | ethyl 7-(p-chlorophenylsulfonamido)-3[3-(3-pyridyl)propyl]heptanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CC(=O)OCC)CCCC=1C=NC=CC1 | C23H31ClN2O4S
reactant | sodium hydroxide | 5.2 mmol, 1N, 5.2 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 7-(p-chlorophenylsulfonamido)-3-[3-(3-pyridyl)propyl]heptanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CC(=O)O)CCCC=1C=NC=CC1 | C21H27ClN2O4S
